US05561150
1.15 ml (14.8 mmol) of methanesulfonyl chloride were added dropwise while stirring to a solution, cooled to 0°, of 1.7 g (7.45 mmol) of (RS)-1-(7-methyl-1,4-dihydro-indeno[2,1-c]pyrazol-1-yl)-propan-2-ol and 4.12 ml (29.7 mmol) of triethylamine in 60 ml of dichloromethane and the mixture was stirred at this temperature for a further 1.5 hours. The reaction mixture was subsequently diluted with 100 ml of dichloromethane, washed twice with 50 ml of saturated sodium hydrogen carbonate solution each time and the combined aqueous phases were extracted once with 50 ml of dichloromethane. The combined organic phases were washed with 50 ml of saturated sodium chloride solution, dried over magnesium sulfate and evaporated in a vacuum. The yellow oil obtained was dissolved in 40 ml of anhydrous dimethylformamide, treated with 0.96 g (14.8 mmol) of sodium azide and the reaction mixture was heated to 70° for 15 hours while stirring. After cooling, the solution was poured into 100 ml of semi-saturated sodium chloride solution and extracted twice with 100 ml of diethyl ether each time. The combined organic phases were washed once with 80 ml of water and once with 80 ml of saturated sodium chloride solution, dried over magnesium sulfate and the solution was concentrated in a vacuum. The brown oil obtained was purified by column chromatography on silica gel (ethyl acetate/toluene 1:1). 1.38 g (73%) of (RS)-1-(2-azido-propyl)-7-methyl-1,4-dihydro-indeno[2,1-c]pyrazole were obtained as a light yellow solid with m.p. 70°-72°.

reactant | methanesulfonyl chloride | 14.8 mmol, 1.15 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | (RS)-1-(7-methyl-1,4-dihydro-indeno[2,1-c]pyrazol-1-yl)-propan-2-ol | 7.45 mmol, 1.7 g | CC1=C2C=C3N(N=CC3=C2CC=C1)CC(C)O | C14H16N2O
reactant | triethylamine | 29.7 mmol, 4.12 ml | C(C)N(CC)CC | C6H15N
reactant | sodium azide | 14.8 mmol, 0.96 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | (RS)-1-(2-azido-propyl)-7-methyl-1,4-dihydro-indeno[2,1-c]pyrazole | 1.38 g, 73% | N(=[N+]=[N-])C(CN1N=CC=2C1=CC1=C(C=CCC12)C)C | C14H15N5
